US07834181B2
2-Fluoro-8-(2-chloro-4,5-dimethoxy-benzyl)adenine:
A solution of 2-Fluoro-8-(3,4-dimethoxy-benzyl)adenine (40 mg, 0.132 mmol), NCS (77.8 mg, 0.58 mmol) in anhydrous DMF (0.7 mL) was stirred at room temperature for 5.5 h. Following solvent removal, the product (22 mg, 49.4%) was collected through silica gel column purification (CHCl3:EtOAc at 8:2 to 4:6). MS m/z 338.0 (M+H)+.

reactant | 2-Fluoro-8-(3,4-dimethoxy-benzyl)adenine | 0.132 mmol, 40 mg | FC1=NC(=C2NC(=NC2=N1)CC1=CC(=C(C=C1)OC)OC)N | C14H14FN5O2
reactant | NCS | 0.58 mmol, 77.8 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-8-(2-chloro-4,5-dimethoxy-benzyl)adenine | FC1=NC(=C2NC(=NC2=N1)CC1=C(C=C(C(=C1)OC)OC)Cl)N | C14H13ClFN5O2
